data/oMe_Silver.jsonl
{"reaction_id": "NR-102_1-c1ccccc1_2-C(=O)OCC_3-C(C)(C)C","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(c1ccccc1)(=S)N","C(C(C)(C)C)(=O)C(C(=O)OCC)Cl"],"products_smiles": ["c1ccccc1c1nc(C(C)(C)C)c(C(=O)OCC)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccccc1)(=[NH2+])SC(C(=O)OCC)C(C(C)(C)C)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(=N)SC(C(=O)OCC)C(C(C)(C)C)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C1=[NH+]C(C(C)(C)C)(O)C(C(=O)OCC)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C1=NC(C(C)(C)C)([OH2+])C(C(=O)OCC)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1c1nc(C(C)(C)C)c(C(=O)OCC)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
{"reaction_id": "NR-322_1-C_2-S(=O)(=O)c2ccccc2_3-c2c(Cl)ccc(Cl)c2_4-c2ccc(OC)cc2","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(C)S(=O)(=O)c2ccccc2","O=C(c2c(Cl)ccc(Cl)c2)c2ccc(OC)cc2"],"products_smiles": ["C(=C(c2c(Cl)ccc(Cl)c2)c2ccc(OC)cc2)(C)S(=O)(=O)c2ccccc2","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](C)S(=O)(=O)c2ccccc2","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(c2c(Cl)ccc(Cl)c2)(c2ccc(OC)cc2)C1(C)S(=O)(=O)c2ccccc2","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(c2c(Cl)ccc(Cl)c2)c2ccc(OC)cc2)(C)S(=O)(=O)c2ccccc2","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
